US07816344B2
N-[3-(1-Hydroxy-3-nitromethyl-1,3-dihydro-benzo[c][1,2]oxaborol-7-yloxy)-propyl]-methanesulfonamide
MsCl (0.99 mL, 13 mmol) was added slowly to a solution of Et3N (2.85 mL, 20.5 mmol) and 7-(3-amino-propoxy)-3-nitromethyl-3H-benzo[c][1,2]oxaborol-1-ol hydrochloride (1.55 g, 5.12 mmol) in CH2Cl2 (50 mL) at 0° C. (bath temp). The reaction mixture was stirred at rt for 1 h and then quenched with H2O (50 mL). The mixture was extracted with CH2Cl2 and the organic fractions were dried (MgSO4) and concentrated in vacuo. The residue was purified by flash chromatography (30% EtOAc in hexane) to give the title compound as a viscous liquid: yield 500 mg (28%).

reactant | MsCl | 13 mmol, 0.99 mL | CS(=O)(=O)Cl | CH3ClO2S
reactant | Et3N | 20.5 mmol, 2.85 mL | CCN(CC)CC | C6H15N
reactant | 7-(3-amino-propoxy)-3-nitromethyl-3H-benzo[c][1,2]oxaborol-1-ol hydrochloride | 5.12 mmol, 1.55 g | Cl.NCCCOC1=CC=CC2=C1B(OC2C[N+](=O)[O-])O
solvent | CH2Cl2 | 50 mL | C(Cl)Cl | CH2Cl2
product | N-[3-(1-Hydroxy-3-nitromethyl-1,3-dihydro-benzo[c][1,2]oxaborol-7-yloxy)-propyl]-methanesulfonamide | OB1OC(C2=C1C(=CC=C2)OCCCNS(=O)(=O)C)C[N+](=O)[O-] | C12H17BN2O7S
